US04387230
cis-3-Hydroxy-1-methyl-5-(4-methylphenyl)piperidine
A solution of 5-hydroxy-1-methyl-3-(4-methylphenyl)-1,2,5,6-tetrahydropyridine (5.1 g, 25 mM) in methanol (200 ml) was hydrogenated in a Parr apparatus at 50 psi (about 3.51×104 kg/sq.m.) and room temperature over 10% palladium-on-charcoal (1 g). After the theoretical uptake of hydrogen had occurred (about 3 hours) the catalyst was removed by filtration and the solvent removed under vacuum. Recrystallisation from cyclohexane gave the title compound (4 g). A portion was converted to the hydrochloride and recrystallized from methanol/ether to give the title compound hydrochloride, m.p. 218°-9°.

reactant | 5-hydroxy-1-methyl-3-(4-methylphenyl)-1,2,5,6-tetrahydropyridine | 25 mM, 5.1 g | OC1C=C(CN(C1)C)C1=CC=C(C=C1)C | C13H17NO
reactant | hydrogen | [H][H] | H2
solvent | methanol | 200 ml | CO | CH4O
catalyst | palladium-on-charcoal | 1 g | [Pd] | Pd
product | cis-3-Hydroxy-1-methyl-5-(4-methylphenyl)piperidine | 4 g | O[C@@H]1CN(C[C@@H](C1)C1=CC=C(C=C1)C)C | C13H19NO
